US06713474B2
a) 4-Bromo-2-methyl-1-phenoxybenzene
The title compound was prepared in a 35% yield from 4-bromo-2-methylphenol and phenyl boronic acid in a manner similar to that described for the preparation of 4-bromo-2-chloro-1-phenoxybenzene: 1H NMR (DMSO-d6, 400 MHz) δ 7.54(s, 1H), 7.35(m, 3H), 7.12(t, 1H), 6.93(d, 2H), 6.82(d, 2H), 2.18(s, 3H); RP-HPLC (Hypersil HS, 5 μm, 100 A, 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 mmin) tr 14.25min.

reactant | 4-bromo-2-methylphenol | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-bromo-2-chloro-1-phenoxybenzene | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)Cl | C12H8BrClO
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 4-Bromo-2-methyl-1-phenoxybenzene | 35% yield | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)C | C13H11BrO
